US08017607B2
In a manner similar to the method described in Example 52, rac-{[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]-amino}-acetic acid ethyl ester (83 mg, 0.144 mmol, example C16) was reacted with lithium hydroxide hydrate (36 mg, 0.945 mmol, Aldrich) to give rac-{[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]-amino}-acetic acid (71 mg, 92%) HRMS (ES+) m/z Calcd for C25H25Cl2F2N3O3+H [(M+H)+]: 524.1314; Found: 524.1315.

reactant | rac-{[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]-amino}-acetic acid ethyl ester | 0.144 mmol, 83 mg | C(C)OC(CNC(=O)N1[C@@H]([C@@]([C@@H](C1)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)C1=C(C(=CC=C1)Cl)F)=O | C27H29Cl2F2N3O3
reactant | lithium hydroxide hydrate | 0.945 mmol, 36 mg | O.[OH-].[Li+]
product | rac-{[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]-amino}-acetic acid | 71 mg, 92% | ClC=1C(=C(C=CC1)[C@H]1N(C[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NCC(=O)O)F | C25H25Cl2F2N3O3
